US04318912
A mixture of benzyl 6-(1-hydroxyethyl)-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (30 mg), 10% palladium on charcoal (30 mg), sodium bicarbonate (6 mg), dioxane (3 ml) and water (1 ml) is hydrogenated at 40 psi for 30 mins. The mixture is filtered to remove the catalyst which is washed with water (3×3 ml) The combined filtrate is extracted with ethylacetate (3×2 ml), concentrated in vacuo to ca. 2 ml, and lyophilized to give sodium 6-(1-hydroxyethyl)-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 6-(1-hydroxyethyl)-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 30 mg | OC(C)C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)OS(=O)(=O)C=1C(=CC=CC1)C | C23H23NO7S
reactant | sodium bicarbonate | 6 mg | C([O-])(O)=O.[Na+]
reactant | dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on charcoal | 30 mg | [Pd] | Pd
solvent | water | 1 ml | O | H2O
product | sodium 6-(1-hydroxyethyl)-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | OC(C)C1C2CC(=C(N2C1=O)C(=O)[O-])OS(=O)(=O)C=1C(=CC=CC1)C.[Na+] | InChI=1S/C16H17NO7S.Na/c1-8-5-3-4-6-12(8)25(22,23)24-11-7-10-13(9(2)18)15(19)17(10)14(11)16(20)21;/h3-6,9-10,13,18H,7H2,1-2H3,(H,20,21);/q;+1/p-1
